US08445510B2
1-(trans-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-4-iodo-3-methoxy-1H-pyrazole
A solution of trans-4-(4-iodo-3-methoxy-1H-pyrazol-1-yl)cyclohexanol (0.359 g, 1.11 mmol), 1H-imidazole (0.228 g, 3.34 mmol), and 4-dimethylaminopyridine (0.0272 g, 0.223 mmol) in anhydrous DCM (10.8 mL) was charged with tert-butyldimethylsilyl chloride (0.336 g, 2.23 mmol) and stirred at rt for 20 min. The reaction was partitioned between CHCl3 and 1M NaHCO3 and separated. The aqueous was re-extracted with CHCl3 (3×) and the combined organic fraction were washed with brine (1×), dried over Na2SO4, filtered and concentrated in vacuo resulting in a crude colorless oil. The crude material was purified by chromatography on silica gel [eluting with 5% EtOAc in hexanes] resulting in the title compound as a clear colorless oil. 1H NMR (400 MHz, CD3OD): δ=0.09 (d, J=0.51 Hz, 6H), 0.91 (s, 9H), 1.41-1.54 (m, 2H), 1.74-1.87 (m, 2H), 1.93-2.09 (m, 4H), 3.68-3.77 (m, 1H), 3.86 (d, J=0.5 Hz, 3H), 3.96 (tt, J=3.9, 12 Hz, 1H), 7.48 (s, 1H). MS (ES+): m/z 437.17 (100) [MH+]. HPLC: tR=4.98 min (vvnonpolar—5 min, ZQ3).

reactant | trans-4-(4-iodo-3-methoxy-1H-pyrazol-1-yl)cyclohexanol | 1.11 mmol, 0.359 g | IC=1C(=NN(C1)[C@@H]1CC[C@H](CC1)O)OC | C10H15IN2O2
reactant | 1H-imidazole | 3.34 mmol, 0.228 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 2.23 mmol, 0.336 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
catalyst | 4-dimethylaminopyridine | 0.223 mmol, 0.0272 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 10.8 mL | C(Cl)Cl | CH2Cl2
product | 1-(trans-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-4-iodo-3-methoxy-1H-pyrazole | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1N=C(C(=C1)I)OC | C16H29IN2O2Si
